US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine (Preparation M) (125 mg, 0.438 mmol) and ethylamine hydrochloride (53.6 mg, 0.658 mmol) were combined and purified as per Preparation Ha to give 2-chloro-N-ethyl-7-(4-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidin-4-amine (38.17 mg, 0.130 mmol, 29.6% yield). LC-MS (M+H)+=294.0. 1H NMR (500 MHz, CDCl3) δ ppm 7.24-7.38 (2H, m), 6.92-7.08 (2H, m), 5.73-5.98 (1H, m), 4.83-5.21 (2H, m), 3.36-3.63 (2H, m), 1.13-1.28 (3H, m).

reactant | 2,4-dichloro-7-(4-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidine | 0.438 mmol, 125 mg | ClC=1N=C(C2=C(N1)C(OC2)C2=CC=C(C=C2)F)Cl | C12H7Cl2FN2O
reactant | ethylamine hydrochloride | 0.658 mmol, 53.6 mg | Cl.C(C)N
product | 2-chloro-N-ethyl-7-(4-fluorophenyl)-5,7-dihydrofuro[3,4-d]pyrimidin-4-amine | 0.130 mmol, 38.17 mg, 29.6% yield | ClC=1N=C(C2=C(N1)C(OC2)C2=CC=C(C=C2)F)NCC | C14H13ClFN3O
